US07968587B2
(R)—N′-[7-Cyano-4-(isothiazol-3-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-N,N-dimethylsulfamide
Mix (R)-2-amino-4-isothiazol-3-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile dihydrochloride salt (1.0 g, 2.72 mmol), triethylamine (0.76 mL, 5.44 mmol), and 1,4-diazabicyclo[2,2,2]octane (0.52 g, 4.63 mmol) in CHCl3 (80 mL) and heat in an oil bath until the internal temperature reaches to 54° C. Add a solution of dimethylsulfamoyl chloride (0.35 mL, 3.26 mmol) in CHCl3 (10 mL) drop wise to the reaction mixture via addition funnel under a nitrogen atmosphere over 30 min. Stir the resulting mixture for an additional hour at 54° C. and then cool to room temperature. Dilute with CH2Cl2 (150 mL), wash the organic layer with saturated NaHCO3, dry (Na2SO4), filter, and concentrate in vacuo. Purify using silica gel chromatography on with EtOAc/hexane (8/2) to yield 0.82 g (75%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 9.03 (s, 1H), 7.88 (s, 1H), 7.74 (d, J=5.0 Hz, 1H), 7.64 (d, J=5.1 Hz, 1H), 7.38 (d, J=5.0 Hz, 1H), 7.17 (s, 1H), 5.52 (s, 2H), 4.52-4.40 (m, 2H), 3.31-3.18 (m, 2H), 2.62 (s, 6H).

reactant | (R)-2-amino-4-isothiazol-3-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile dihydrochloride salt | 2.72 mmol, 1.0 g | Cl.Cl.N[C@@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NSC=C2)C1
reactant | triethylamine | 5.44 mmol, 0.76 mL | C(C)N(CC)CC | C6H15N
reactant | 1,4-diazabicyclo[2,2,2]octane | 4.63 mmol, 0.52 g | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylsulfamoyl chloride | 3.26 mmol, 0.35 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | CHCl3 | 80 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (R)—N′-[7-Cyano-4-(isothiazol-3-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-N,N-dimethylsulfamide | 0.82 g, 75% | C(#N)C1=CC=2C3=C(N(C2C=C1)CC1=NSC=C1)C[C@@H](C3)NS(=O)(=O)N(C)C | C18H19N5O2S2
